US04990508
In 10 ml of diethyl ether was dissolved 2.0 g of methyl 2,3,5,6-tetrafluoro-4-vinylbenzoate. To the resulting solution was added, with ice-cooling, a diazomethane-diethyl ether solution prepared from 3.0 g of N-methyl-N-nitrosourea. The resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure. The residue obtained was dissolved in 15 ml of xylene and the resulting solution was refluxed for 1 hour. The reaction mixture was concentrated under reduced pressure to obtain 2.1 g (yield: 99.1%) of methyl 4-cyclopropyl-2,3,5,6-tetrafluorobenzoate.

reactant | methyl 2,3,5,6-tetrafluoro-4-vinylbenzoate | 2.0 g | FC1=C(C(=O)OC)C(=C(C(=C1F)C=C)F)F | C10H6F4O2
reactant | diazomethane diethyl ether | [N+](=[N-])=C.C(C)OCC
reactant | N-methyl-N-nitrosourea | 3.0 g | CN(C(=O)N)N=O | C2H5N3O2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
product | methyl 4-cyclopropyl-2,3,5,6-tetrafluorobenzoate | 2.1 g, yield: 99.1% | C1(CC1)C1=C(C(=C(C(=O)OC)C(=C1F)F)F)F | C11H8F4O2
